US06194410B1
A suspension of 1.34 g (3.5 mmol) of 3-benzenesulphonyl-5-tert-butyl-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidin-7-ol in 20 ml of POCl3 was heated at reflux for 30 min. The reaction solution was cooled to RT and evaporated. The residue was treated with 100 ml of ice-water and the pH value of the solution was adjusted to 8 with sat. NaHCO3 solution. The aqueous phase was extracted three times with CH2Cl2, and the organic phases were dried (MgSO4), filtered and evaporated. Chromatography (silica gel, CH2Cl2/AcOEt 19:1) of the residue yielded 1.23 g (78%) g of 3-benzenesulphonyl-5-tert-butyl-7-chloro-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidine as a pale yellow foam.

reactant | 3-benzenesulphonyl-5-tert-butyl-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidin-7-ol | 3.5 mmol, 1.34 g | C1(=CC=CC=C1)S(=O)(=O)C=1C(=NN2C1N=C(C=C2O)C(C)(C)C)SC | C17H19N3O3S2
reactant | POCl3 | 20 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 3-benzenesulphonyl-5-tert-butyl-7-chloro-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidine | C1(=CC=CC=C1)S(=O)(=O)C=1C(=NN2C1N=C(C=C2Cl)C(C)(C)C)SC | C17H18ClN3O2S2
